US07223791B2
A mixture of 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-(2-nitrophenyl)-1,3,4-oxadiazole (1.75 g), 0.5 M sulfuric acid (15 ml) and acetone (50 ml) was heated under reflux for 1 hr. After cooling, the reaction mixture was concentrated, and the residue was diluted with ethyl acetate. This solution was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1, volume ratio) to give 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzaldehyde (1.37 g, yield 89%). Recrystallization from hexane-ethyl acetate gave pale-yellow prism crystals. melting point: 189–190° C.

reactant | 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-(2-nitrophenyl)-1,3,4-oxadiazole | 1.75 g | O1C(OCC1)C1=CC=C(C=C1)C=1OC(=NN1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H13N3O5
reactant | sulfuric acid | 0.5 M, 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzaldehyde | 1.37 g, yield 89% | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(O1)C1=CC=C(C=O)C=C1 | C15H9N3O4
